US09216980B2
6-Chloro-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 3-bromo-6-chloro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (1.00 g, 3.55 mmol), 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine hydrochloride (1.24 g, 3.67 mmol) and 1,1′-[bis(diphenylphosphino) ferrocene]dichloro palladium(II) (0.29 g, 0.35 mmol) in acetonitrile (20 mL) and 2N aqueous potassium fluoride solution (10 mL) was heated under microwave irradiation at 140° C. for 30 minutes. The cooled reaction mixture was concentrated under reduced pressure and taken up in DCM/methanol and loaded onto an SCX-2 cartridge (20 g) which was then washed with methanol (50 mL) then 2N ammonia in methanol (50 mL). The combined basic fractions were concentrated in vacuo and the residue purified by flash chromatography (silica, 80 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as a pink solid (0.87 g, 66%). 1H NMR (DMSO-D6, 400 MHz): 12.38 (s, 1H), 9.03 (d, J=2.3 Hz, 1H), 8.95 (d, J=2.3 Hz, 1H), 8.71 (d, J=1.0 Hz, 1H), 8.38 (d, J=0.9 Hz, 1H), 7.75 (d, J=7.9 Hz, 2H), 7.44 (d, J=7.9 Hz, 2H), 3.49 (s, 2H), 2.39-2.33 (m, 4H), 1.56-1.48 (m, 4H), 1.45-1.37 (m, 2H). LCMS (Method B): RT=2.27 min, M+H+=377.

reactant | 3-bromo-6-chloro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 3.55 mmol, 1.00 g | BrC1=CC2=C(NC3=C2C=C(N=C3)Cl)N=C1 | C10H5BrClN3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperidine hydrochloride | 3.67 mmol, 1.24 g | Cl.CC1(OB(OC1(C)C)C1=CC=C(CN2CCCCC2)C=C1)C
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 2N, 10 mL | [F-].[K+]
product | 6-Chloro-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.87 g, 66% | ClC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C22H21ClN4
